US05112998
The procedure of Example 23 was repeated except that 5.5 mg (0.01 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α--epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate was used in lieu of 5 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate to give 2.9 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α--epoxy-7α-methoxycarbonyloxypregn-5-en-3β-ol (yield: 58%).

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α--epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate | 0.01 mmole, 5.5 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(=O)OC | C31H46O8
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate | 5 mg | C(C)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C | C29H42O5
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α--epoxy-7α-methoxycarbonyloxypregn-5-en-3β-ol | 2.9 mg, yield: 58% | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O)OC(=O)OC)C | C29H44O7
